US09278915B2
Intermediate 66: (1R,2S)-2-(4-Hydroxyphenyl)-N-(2-hydroxy-1-phenylethyl)cyclopropanecarboxamide
To a 250 mL RB flask fitted with magnetic stirrer was charged with 100 mL of dichloromethane. To the stirred solvent was added (1R,2S)—N-(2-hydroxy-1-phenylethyl)-2-(4-methoxyphenyl)cyclopropanecarboxamide (1.9 g, 6 mmol). The reaction mixture was brought to 0° C. and boron tribromide (0.86 mL, 9 mmol) was added drop wise. The reaction mixture was allowed to stir at room temperature for 45 minutes. The reaction mixture was quenched with ethanol (5 mL), the reaction mixture was concentrated to distill off the solvent; water (25 mL) was added and extracted with ethyl acetate (25 mL). The organic layer was washed with saturated NaHCO3 solution (10 mL) and brine solution (10 mL). The organic layer was dried over Na2SO4 and the solvent was removed under reduced pressure. The product was obtained as white solid (0.55 g, yield: 58.7%). 1H NMR (300 MHz, DMSO-d6): δ 9.20 (s, 1H), 8.47-8.50 (d, 1H), 7.21-7.30 (m, 5H), 6.88-6.91 (d, 2H), 6.63-6.66 (d, 2H), 4.86-4.90 (t, 2H), 3.52-3.56 (t, 2H), 2.05-2.11 (m, 1H), 1.87-1.93 (m, 1H), 1.24-1.29 (m, 1H), 1.04-1.10 (m, 1H).

reactant | (1R,2S)—N-(2-hydroxy-1-phenylethyl)-2-(4-methoxyphenyl)cyclopropanecarboxamide | 6 mmol, 1.9 g | OCC(C1=CC=CC=C1)NC(=O)[C@H]1[C@H](C1)C1=CC=C(C=C1)OC | C19H21NO3
reactant | boron tribromide | 9 mmol, 0.86 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (1R,2S)-2-(4-Hydroxyphenyl)-N-(2-hydroxy-1-phenylethyl)cyclopropanecarboxamide | 0.55 g, yield: 58.7% | OC1=CC=C(C=C1)[C@@H]1[C@@H](C1)C(=O)NC(CO)C1=CC=CC=C1 | C18H19NO3
